US05153187
(1R, 5S, 6S)-2-[(4R)-N-methylpyrrolidine-2-thion-4ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt (400 mg) is suspended in N,N-dimethylformamide (5 ml), and thereto is added potassium carbonate (146 mg). To the mixture is added acetoxymethyl iodide (275 mg) at 5°-7° C., and the mixture is stirred at the same temperature for one hour. The reaction mixture is poured into phosphate buffer (pH 7.0) and extracted with ethyl acetate. The organic layer is washed with water, dried and concentrated to dryness under reduced pressure. The residue is purified by silica gel column chromatography (eluent, chloroform - chloroform:ethanol=98:2), followed by crystallization from tetrahydrofuran and diethyl ether to give (1R, 5S, 6S)-2-[(4R)-N-methylpyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid acetoxymethyl ester (250 mg) as colorless needles.

reactant | (1R, 5S, 6S)-2-[(4R)-N-methylpyrrolidine-2-thion-4ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt | 400 mg | [Na+].CN1C(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=S
reactant | potassium carbonate | 146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetoxymethyl iodide | 275 mg | C(C)(=O)OCI | C3H5IO2
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (1R, 5S, 6S)-2-[(4R)-N-methylpyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid acetoxymethyl ester | 250 mg | C(C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2CC(N(C2)C)=S | C18H24N2O6S2
